US04695131
Step 5a1: The preparation of 3'-Fluoro-4-propyl-p-terphenyl
A solution of 4-(4-n-propylcyclohexenyl)-2-fluorobiphenyl (20 gram) in toluene (120 ml) was added over a 25 minute period with stirring to a suspension of 2,3-dichloro-5,6-dicyano-1,4-benzoquinone (DDQ) (34 gram) in toluene (200 ml). The temperature rose from 19° C. to 24° C. over the addition, after which time the reaction mixture was heated under reflux (114° C.) for 3 hours. The reaction mixture was cooled, filtered, the filtrate and toluene washings (100 ml) were combined and then washed with saturated sodium metabisulphite solution (250 ml). The organic extract was further washed with water (2×250 ml), dried and evaporated to dryness to give a brown residue (20.1 gram). The residue was dissolved in dichloromethane (120 mls) and adsorbed onto a column of basic alumina (60 gram) over silica gel (60 gram). Elution with dichloromethane (450 ml) gave on evaporation of the solvent an off white solid (14 gram) which was recrystallised from ethanol (80 mls) to yield a white crystalline product (12.8 gram) m.p. 75°-77° C.

reactant | 4-(4-n-propylcyclohexenyl)-2-fluorobiphenyl | 20 gram | C(CC)C1CC=C(CC1)C1=CC(=C(C=C1)C1=CC=CC=C1)F | C21H23F
reactant | 2,3-dichloro-5,6-dicyano-1,4-benzoquinone | 34 gram | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
solvent | toluene | 120 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | 3'-Fluoro-4-propyl-p-terphenyl | 20.1 gram | FC=1C=C(C=CC1C1=CC=CC=C1)C1=CC=C(C=C1)CCC | C21H19F
